*adder
.TEMP 25
.OPTION ACCURATE
.OPTION POST=2

.global vdd!

* YOU SHOULD INCLUDE MODEL FILES
.INCLUDE "/home/centos/PDK/FreePDK45/ncsu_basekit/models/hspice/tran_models/models_nom/NMOS_VTL.inc"
.INCLUDE "/home/centos/PDK/FreePDK45/ncsu_basekit/models/hspice/tran_models/models_nom/PMOS_VTL.inc"

* YOU SHOULD INCLUDE YOUR NELIST
.INCLUDE "./../../backend/pex/myFA.pex.netlist"
xi0 A B Cin gnd! vdd! Cout S myFA

* YOU SHOULD ADD LOAD CAPACITANCE
c0 Cout 0 1e-14
c1 S 0 1e-14

* YOU SHOULD GIVE INPUT PATTERNS FOR TEST CASES

* YOU SHOULD GIVE PROPER INPUT PATTERNS FOR MAXIMUM DELAY
* Input pattern for full adder test cases:  
* A: 0 1 1 0  
Vin1 A gnd PULSE (0v 0.7v 4.9n 0.1n 0.1n 9.9n 20n)  
* B: 0 0 1 0
* Cin: 0 1 0 1 
Vin2 B gnd PULSE (0v 0.7v 9.9n 0.1n 0.1n 4.9n 10n)  
Vin3 Cin gnd PULSE (0v 0.7v 4.9n 0.1n 0.1n 4.9n 10n) 

.PARAM PERIOD =20NS
.PARAM T0= 0.1NS
.PARAM T1= T0+PERIOD
.PARAM T2= T1+0.1NS
.PARAM STEP= 1PS

VDD   vdd! 0 0.7
VGND  gnd! 0 0

.TRAN STEP T2

* YOU SHOULD MAKE SURE THAT YOU ARE MEASURING THE CORRECT SIGNAL FOR MAXIMUM DELAY. BELOW IS JUST AN EXAMPLE.
.MEASURE TRAN DELAY_COUT TRIG V(A) VAL= 0.35  RISE=1 TARG V(Cout) VAL= 0.35 RISE=1
.MEASURE TRAN DELAY_S TRIG V(Cin) VAL= 0.35  RISE=2 TARG V(S) VAL= 0.35 RISE=1

.probe v(A) v(B) v(Cin) v(S) v(Cout)
.END








